US06410592B1
A: 2-(N-Benzylmethylamino)methyl-6-hydroxy-1-phenyl-3,4-dihydronaphthalene
To a solution of 2-(N-benzylmethylamino)methyl-6-methoxy-1-phenyl-3,4-dihydronaphthalene (0.375 g; prepared according to Process 1) in dichloromethane (15 cm3) being stirred at 0° C. under nitrogen was added a solution of boron tribromide in dichloromethane (1 M, 2.2 cm3). The resulting solution was stirred at 0° C. for 30 min and then at room temperature for 1.5 h. Methyl alcohol (5 cm3) was added and the solvents were removed under reduced pressure. The residue was treated with hydrochloric acid (6 M, 2 cm3) and dichloromethane (4 cm3) and stirred at room temperature for 30 min. The mixture was basified with potassium carbonate, diluted with water (50 cm3), and extracted with dichloromethane (3×25 cm3). The combined organic extracts were washed with brine (25 cm3), dried (MgSO4), and the solvent was removed under reduced pressure. The crude product was purified by column chromatography [silica, eluting with ethyl acetate-heptane (1:1)] to yield the title compound (0.202 g) as a brown oil.

reactant | 2-(N-benzylmethylamino)methyl-6-methoxy-1-phenyl-3,4-dihydronaphthalene | 0.375 g | C(C1=CC=CC=C1)CNCC1=C(C2=CC=C(C=C2CC1)OC)C1=CC=CC=C1 | C26H27NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methyl alcohol | 5 cm3 | CO | CH4O
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 1 M, 2.2 cm3 | ClCCl | CH2Cl2
product | 2-(N-Benzylmethylamino)methyl-6-hydroxy-1-phenyl-3,4-dihydronaphthalene | 0.202 g | C(C1=CC=CC=C1)CNCC1=C(C2=CC=C(C=C2CC1)O)C1=CC=CC=C1 | C25H25NO
